US08017626B2
Method 34: 2-(7-(3-cyanophenyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetic acid
Trifluoroacetic acid (4.00 ml, 54 mmol) was added to a suspension of tert-butyl 2-(7-(3-cyanophenyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate (0.162 g, 0.37 mmol) in dichloromethane (2.00 ml). After stirring for one hour at room temperature water was added and the solids formed were collected by filtration. The solids were washed with water, ether, dried in a vacuum oven at 50° C. to afford off-white solids in 74% yield.

reactant | Trifluoroacetic acid | 54 mmol, 4.00 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(7-(3-cyanophenyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | 0.37 mmol, 0.162 g | C(#N)C=1C=C(C=CC1)C1=CC=C2C(=C(C(N(C2=C1)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C24H23N3O5
reactant | water | O | H2O
solvent | dichloromethane | 2.00 ml | ClCCl | CH2Cl2
product | 2-(7-(3-cyanophenyl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetic acid | 74% yield | C(#N)C=1C=C(C=CC1)C1=CC=C2C(=C(C(N(C2=C1)C)=O)C(=O)NCC(=O)O)O | C20H15N3O5
